US05589478
To a suspension of 2-(6-aminopyrimidin-4-yloxy)ethanol (400 mg) in methanol (4 ml) is added dropwise a solution of bromine (437 mg) in methanol (2 ml). The mixture is evaporated to remove the solvent, and the residue is dissolved in ethyl acetate. The mixture is treated with saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate/tetrahydrofuran. The organic layer is washed, dried, and evaporated to remove the solvent to give 2-(6-amino-5-bromopyrimidin-4-yloxy)ethanol (632 mg).

reactant | 2-(6-aminopyrimidin-4-yloxy)ethanol | 400 mg | NC1=CC(=NC=N1)OCCO | C6H9N3O2
reactant | bromine | 437 mg | BrBr | Br2
solvent | methanol | 4 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
product | 2-(6-amino-5-bromopyrimidin-4-yloxy)ethanol | 632 mg | NC1=C(C(=NC=N1)OCCO)Br | C6H8BrN3O2
